* C:\Users\rubenelportero\Desktop\Making Devices\Projects\Loveu\havener.asc
Q1 N005 N004 N001 0 2N3906
Q2 N004 N002 0 0 2N3904
D2 0 N005 1N4148
D3 N001 N002 1N4148
C1 N001 0 100µ V=2.5 Irms=3.72678 Rser=0.018 Lser=0 mfg="KEMET" pn="A700D107M2R5ATE018" type="Al electrolytic"
C2 N002 N005 100µ V=2.5 Irms=2.98807 Rser=0.028 Lser=0 mfg="KEMET" pn="A700D107M2R5ATE028" type="Al electrolytic"
R4 N004 N003 1
V1 N001 N005 1V Rser=10000
D1 N002 N003 NSCW100
.model D D
.lib D:\LTSPICE\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib D:\LTSPICE\lib\cmp\standard.bjt
.tran 0 10 0 startup uic
.backanno
.end
